US05948907
A solution of 3-indolylacetonitrile (3.00 g, 19.2 mmol) in DMF (30 mL) was added dropwise to a suspension of sodium hydride (1.08 g, 27.0 mmol) in DMF (10 mL) at room temperature. The resultant mixture was stirred at room temperature for 30 min. before a solution of 3-bromopropylacetate (4.87 g, 26.9 mmol) in DMF (15 mL) was added. The reaction was stirred an additional 3 hours at room temperature before being worked up extractively with EtOAc (250 mL), aqueous 0.5N HCl (200 mL), water (200 mL) and brine (50 mL) and the solvent was removed in vacuo to give 6.91 g (>100%) of crude alkylated product which was converted to 1-(1-hydroxypropyl)-indole-3-acetamide without purification as follows. The oil was dissolved in tert-butanol (70 mL), treated with freshly powdered potassium hydroxide (85%, 12.7 g, 192 mmol) and the resultant mixture heated to a gentle reflux for 1 hr. The reaction mixture was then poured into ice and the acidity adjusted to pH~1 using aqueous 6N HCl (35 mL). The reaction was worked up extractively using EtOAc (300 mL), water (200 mL), brine (50 ml) and the organic layer dried (MgSO4) and the solvent removed in vacuo to give a solid that was purified by flash chromatography using a 2:1 acetone:hexanes initially followed by 95:5 acetone:MeOH to give 2.73 g (61%) of 1-(1-Hydroxypropyl)-indole-3-acetamide. NMR. MS (FD) m/z=232 (M+, 100%). Analytical calculated for C13H16N2O2C, 67.22; H, 6.94; N, 12.06. Found C, 65.99; H. 7.24; N, 11.0.

reactant | 3-indolylacetonitrile | 19.2 mmol, 3.00 g | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | sodium hydride | 27.0 mmol, 1.08 g | [H-].[Na+]
reactant | 3-bromopropylacetate | 26.9 mmol, 4.87 g | BrCCCOC(C)=O | C5H9BrO2
reactant | HCl | 0.5N, 200 mL | Cl | ClH
reactant | potassium hydroxide | 192 mmol, 12.7 g | [OH-].[K+]
reactant | HCl | 6N, 35 mL | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | water | 200 mL | O | H2O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 1-(1-Hydroxypropyl)-indole-3-acetamide | 2.73 g, 61% | OC(CC)N1C=C(C2=CC=CC=C12)CC(=O)N | C13H16N2O2
